Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I gotten into such a dark, dark place "
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old married male ___ with college
degree, no significant PMH and PPH of depression going back to
teenage years.
He  self-presented to the ED with c/o depression and suicidal
ideation. 

In personal interview, Mr. ___ reported dealing with depression x
___ rs. He reports that his depression sx's were gradually
worsening. Within last year, his condition significantly
worsened.
He described "periods of catatonia": he means episodes when he
sits in the same position at home for extended time.
Describing depression, he reported low mood, increased
tearfulness, decreased level of energy, decreased concentration
(e.g., he re reads pages while reading books), decreased 
appetite
(lost 15 lbs within last couple months). Poor sleep: he falls
asleep without major problems. He usually goes to bed at
___ and wakes up after ___ hrs. He then, continues to 
wake
up every hour until he gets up at ___. He described 
episodes
of nightmares. Denied snorring. He wakes up tired.
Mr. ___ admits episodes when he "think about possibility" of
killing himself. He experienced sense of comfort from it as 
"it's
always an option". He admits that he thought about option of
taking OD. However, lack of motivation prevented him from acting
on his ideations.
Mr. ___ shared that he can not identify any psychological
precipitant: he reports being in good relationship "with loving
wife". He said he "actually should a happy person".

On further review of psychiatric sx's: he described episodes
episodes that could be better described as auditory or visual
illusions when he for split second hears a voice or sees a 
shadow
in the corner of his eye.
Besides depression, Mr. ___ denied any other psychiatric hx. No hx
of psychosis.

Collateral: 
Father, ___, ___: Patient has reported intermittent
symptoms of depression for several years, has elected not to 
seek
treatment.  Recently symptoms have worsened and patient has
sought PCP referral to mental health care providers.  Father
reports that patient will call very tearful and endorsing
multiple depressive symptoms, several hours later will feel
better and minimize the symptoms.  Father became concerned
yesterday when patient described suicidal ideation and plan. 
Mother and sister also present during interview and in support 
of
hospitalization.

PAST PSYCHIATRIC HISTORY:
 Sx: Depression
 Hospitalizations: None
 Current treaters and treatment: None
 Medication and ECT trials: None
 Self-injury/Suicide attempts: Denies
 Harm to others: Denies
 Access to weapons: Denies

 
Past Medical History:
No chronic medical conditions
Appendectomy and tonsillectomy
 
Social History:
___
Family History:
 Fam Dx: Sister with eating disorder and one suicide attempt by
overdose in high school
 Fam Hospitalizations: Denies
 Fam Treatment Hx/Med Trials: Denies
 Fam Hx Suicide: Denies
 
Physical Exam:
___ 1027 Temp: 98.1 PO BP: 120/81 HR: 80 RR: 18 O2 sat: 96% 


General: Young male in NAD. Thin. Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:

Cranial Nerves:
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Sensation: 
Intact
to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

On mental status exam:
On MSE, ___ yo alert, thin bearded man, NAD, no facial asymmetry, 
freely moves all his extremities, unremarkable steady gait. 
Adequately groomed: dressed in hospital ___, scrubs and white 
shoes.
He is friendly, cooperative with interview. Motor activity 
decreased, fair eye contact. No involuntary movements noticed. 
Speech spontaneous, in normal rate and prosody. Soft voice. TP: 
linear, well organized. He was reflective describing his 
experiences. No sx's of clear cut psychosis. Pt described
significant depression, anxiety. Pt's affect is friendly, 
restricted, congruent with mood. Pt denied S/I. However, he 
admits he has had episodes of S/I when he "thought about 
possibility". He said: "I am not going to do it". He clearly
denied H/I, he said: "Definitely not...I love people".

 
Pertinent Results:
___ 09:18PM BLOOD WBC-9.8 RBC-4.82 Hgb-15.5 Hct-44.3 MCV-92 
MCH-32.2* MCHC-35.0 RDW-12.4 RDWSD-41.3 Plt ___
___ 09:18PM BLOOD Glucose-87 UreaN-10 Creat-1.0 Na-141 
K-3.9 Cl-101 HCO3-26 AnGap-14
___ 09:18PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:43PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.  There were 
no behavioral concerns requiring restraint or seclusion.

2. PSYCHIATRIC:
On admission, patient reported a ___ year history of untreated 
depression with worsening symptoms over the last few months. He 
reported neuro-vegetative symptoms of decreased appetite, weight 
loss, decreased sleep with middle insomnia and early
awakening, decreased interests, and decreased concentration. 
Collateral was concerning for worsening depression, reporting 
suicidal ideation with the plan to overdose on medications, and 
frequently calling family in tearful, panicked
state.  During admission, patient was started on Remeron 15 mg 
QHS, which was up-titrated to 22.5 mg QHS. The patient also used 
hydroxyzine 25 mg QHS anxiety and Ativan 0.5 mg QHS PRN 
insomnia.  He tolerated these medications well. He reported 
significantly improved sleep, which he linked to an improved 
mood. He stated that he realized here that many things can help 
his mood, including eating right, having good social support, 
taking medications, and seeing outpatient providers. He 
consistently denied SI. His wife came in for a family meeting 
prior to discharge, and was in agreement with discharge the 
following day. The patient reported feeling safe to discharge. 
He was set up with an outpatient psychiatrist and an appointment 
with his therapist. 

3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder
Patient reported using marijuana twice week due to anxiety. 
Encouraged patient to follow up with outpatient providers for 
further substance abuse counseling. 

4. MEDICAL
# Malnutrition
Patient reported poor PO intake for the last ___ onths due to 
depressive symptoms resulting in poor appetite, inability to 
make food for himself, and weight
loss (15 lbs). Nutrition was consulted, who recommended Ensure 
Enlive daily, a daily multivitamin, and monitoring weights. 
During hospitalization, patient reported improved appetite. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient intermittently attended these groups that focused on 
teaching patients various coping skills.  The patient was 
pleasant and calm in the milieu. There were no behavioral 
concerns. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's wife came in for a family meeting prior to 
discharge and was involved in safety planning. A number of 
resources on mental illness were shared with both the patient 
and his wife.

#) Guardianship: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting mirtazapine, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and the 
patient's questions were answered.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself. Risk factors included gender, 
panic attacks, substance abuse, and SI. During hospitalization, 
patient reported improvement in his mood and anxiety. He 
consistently denied SI.  He was set up with outpatient 
providers. The patient is being discharged with many protective 
risk factors, including stable housing, employment, family 
support, married, no prior suicide attempts, no prior 
psychiatric hospitalization, no SI, future orientation with 
plans to return to work, and presence of outpatient providers.  
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN anxiety, insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO QHS:PRN PRN anxiety, insomnia 
RX *lorazepam 0.5 mg 1 tablet by mouth at bedtime Disp #*7 
Tablet Refills:*0 
3.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
4.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Vitals: T 98.0 BP 118/75 HR 65 RR 16 O2: 98%
 
Mental Status Exam: 
Appearance: Thin, age appearing man, adequate hygiene, no acute
distress
Behavior: Cooperative, engaged, calm
Speech: Normal volume, speed, and prosody
Mood / Affect: 'good' / euthymic
thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI, no evidence
of delusions or paranoia
Judgment / Insight: fair/fair

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___